US06897231B2
A. 2-Amino-5-bromo-4′-fluorobenzophenone
To neat 4-fluorobenzoyl chloride (50.00 g, 315 mmol) in a flask at 130° C. was added 4-bromoaniline (17.00 g, 100 mmol) in several portions. After it was stirred at 130° C. for 1 hour and the temperature was raised to 190° C., to the reaction mixture was added zinc chloride (11.00 g, 80.7 mmol) in several portions, then it was heated at 220° C. for 22 hours. Once cooled to 180° C., to the mixture was carefully added concentrated sulfuric acid (50 mL), acetic acid (70 mL), water (70 mL), and another portion of sulfuric acid (50 mL). The mixture was heated at 120° C. overnight. It was poured into water (500 mL) and a white solid was precipitated. It was collected by filtration and was dissolved in ethyl acetate and washed with 5% sodium carbonate until pH of the aqueous phase reached 8. The filtrate was basified with sodium carbonate and extracted with ethyl acetate. The combined ethyl acetate layers were dried over magnesium sulfate, filtered, and concentrated. The residue was then purified by chromatography (SiO2, 15-20% ethyl acetate/hexane) to provide the title compound (13.64 g, 46% yield). 1H NMR (CDCl3) δ 7.67 (m, 2H), 7.51 (d, 1H), 7.37 (dd, 1H), 7.14-7.20 (m, 2H), 6.65 (d, 1H), 6.02 (br s, 2H); ES-MS (m/z) 296 [M+3]+, 294 [M+1]+.

reactant | 4-fluorobenzoyl chloride | 315 mmol, 50.00 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 4-bromoaniline | 100 mmol, 17.00 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
catalyst | zinc chloride | 80.7 mmol, 11.00 g | [Cl-].[Zn+2].[Cl-]
solvent | water | 500 mL | O | H2O
solvent | water | 70 mL | O | H2O
product | 2-Amino-5-bromo-4′-fluorobenzophenone | 13.64 g, 46% yield | NC1=C(C(=O)C2=CC=C(C=C2)F)C=C(C=C1)Br | C13H9BrFNO
